US04053615
1-Cyclohexyl-4-(4-nitrophthalimido)piperidine
6.85 Grams of 4-amino-1-cyclohexylpiperidine were added to 7.26 grams of 4-nitrophthalic anhydride in 100 milliliters of chloroform and the solution was evaporated to dryness. 50 millilters of acetic anhydride were then added and the solution was heated on a steam bath for half an hour. The excess acetic anhydride was evaporated off and the residue dissolved in 40 millilters of isopropyl alcohol and the product crystallised out. This was filtered, dried and dissolved in the least amount of ethanol and ethereal hydrogen chloride added to give 2.85 grams of the title compound which was collected as the monohydrochloride. Melting Point: 265°-270° C.

reactant | 4-amino-1-cyclohexylpiperidine | NC1CCN(CC1)C1CCCCC1 | C11H22N2
reactant | 4-nitrophthalic anhydride | 7.26 grams | [N+](=O)([O-])C=1C=C2C(C(=O)OC2=O)=CC1 | C8H3NO5
solvent | chloroform | 100 milliliters | C(Cl)(Cl)Cl | CHCl3
product | 1-Cyclohexyl-4-(4-nitrophthalimido)piperidine | 2.85 grams | C1(CCCCC1)N1CCC(CC1)N1C(C=2C(C1=O)=CC(=CC2)[N+](=O)[O-])=O | C19H23N3O4
